US04181802
A mixture of 3.6 parts of 2-(2-methoxyphenoxymethyl)oxirane, 5.3 parts of 1,3-dihydro-1-(3-piperidinylmethyl)-2H-benzimidazol-2-one monohydrochloride, 6 parts of sodium carbonate and 80 parts of ethanol is stirred and refluxed for 6 hours. The reaction mixture is cooled, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and recrystallized from 4-methyl-2-pentanone, yielding 1.8 parts (22%) of 1,3-dihydro-1-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl]-3-piperidinylmethyl}-2H-benzimidazol-2-one; mp. 158.1° C.

reactant | 2-(2-methoxyphenoxymethyl)oxirane | COC1=C(OCC2OC2)C=CC=C1 | C10H12O3
reactant | 1,3-dihydro-1-(3-piperidinylmethyl)-2H-benzimidazol-2-one monohydrochloride | Cl.N1CC(CCC1)CN1C(NC2=C1C=CC=C2)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,3-dihydro-1-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl]-3-piperidinylmethyl}-2H-benzimidazol-2-one | 22% | OC(CN1CC(CCC1)CN1C(NC2=C1C=CC=C2)=O)COC2=C(C=CC=C2)OC | C23H29N3O4
